US05571843
2-(4-phenyl semicarbazono)-indan-1,3-dione
ninhydrin, 4-phenyl semicarbazide hydrochloride.

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | 4-phenyl semicarbazide hydrochloride | Cl.C1(=CC=CC=C1)NC(NN)=O
product | 2-(4-phenyl semicarbazono)-indan-1,3-dione | C1(=CC=CC=C1)NC(NN=C1C(C2=CC=CC=C2C1=O)=O)=O | C16H11N3O3
